US07163947B2
2-(Ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine (0.900 g, 3.71 mmol) was placed in a 50 mL round bottom flask, dissolved in 1,2-dichloromethane, and placed under N2. Cyclohexanone (1.19 mL, 11.5 mmol), acetic acid (0.45 mL, 7.79 mmol) and sodium triacetoxyborohydride (1.65 g, 7.79 mmol) were added and the reaction was stirred under N2 at room temperature for 5 days. The reaction was quenched by slow addition of saturated NaHCO3 solution (25 mL) and dichloromethane (25 mL). The mixture was transferred to a separatory funnel and the phases separated. The aqueous portion was extracted with dichloromethane (25 mL). The combined organic portions were washed sequentially with water (25 mL) and brine (25 mL), dried (Na2SO4), filtered and then concentrated to yield a thick brown oil. Analysis by liquid chromatography/mass spectroscopy (LC/MS) of the crude product showed it to be a mixture of the hydrazone and hydrazine. The oil was dissolved in methanol (25 mL), chilled in an ice water bath and then treated with sodium borohydride (1.25 g). The reaction was quenched with water (25 mL) and the mixture concentrated. The residue was partitioned between dichloromethane 50 mL) and water (15 mL), transferred to a separatory funnel, and the phases were separated. The organic portion was washed sequentially with saturated NaHCO3 solution (20 mL), water (20 mL) and brine (20 mL), dried (Na2SO4), filtered and then concentrated to yield a thick brown oil. The material was purified by column chromatography (35 g SiO2, 97:3 chloroform:methanol) to yield 0.51 g of N-cyclohexyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine as a light brown oil/solid.

reactant | 2-(Ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine | 3.71 mmol, 0.900 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N | C13H14N4O
reactant | Cyclohexanone | 11.5 mmol, 1.19 mL | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 7.79 mmol, 0.45 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7.79 mmol, 1.65 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrazine | NN | H4N2
reactant | sodium borohydride | 1.25 g | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | N-cyclohexyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine | 0.51 g | C1(CCCCC1)NN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C19H24N4O
